* C:\Users\pablo\OneDrive\Escritorio\Universidad\Analogica 1\Proyecto Uno\Proyecto Analogica\A8_AltaMFF_2.asc
R1 N002 Vout {R1}
C1 N001 Vin {C1}
XU1 0 N002 Vcc -Vcc Vout LT1001
C2 N001 Vout {C2}
V1 Vcc 0 15
V2 0 -Vcc 15
V3 Vin 0 PWL file=sig_in.csv AC 5
R2 0 N001 {R2}
C3 N001 N002 {C3}
.tran 0 {transtop} 0 {timestep} startup
.include param.txt
.include trancmd.txt
* do not edit this by hand
.lib LTC.lib
.backanno
.end
